* C:\users\yura\My Documents\robot-dream\memristors\LTSPICE\Main_sch.asc
V1 +V 0 15
V2 -V 0 -15
XU1 N001 N006 +V -V N005 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C1 N004 N003 0.1µ V=25 Irms=0 Rser=0.017282 Lser=350p mfg="Würth Elektronik" pn="885012207072 WCAP-CSGP 0805" type="X7R"
C2 N006 0 0.01µ V=25 Irms=0 Rser=0.026173 Lser=533.953p mfg="Würth Elektronik" pn="885012008030 WCAP-CSGP 1206" type="NP0"
R1 0 N004 100K tol=1 pwr=0.1
R2 N005 N006 63.4K tol=1 pwr=0.1
R3 N001 N005 200K tol=1 pwr=0.1
R4 0 N001 806K tol=1 pwr=0.1
D1 N004 N001 1N914
D2 0 N006 1N914
V3 N003 0 PULSE(-5 5 0 1n 1n 0.0005 0.002)
XU2 N002 0 NC_01 MEM_BIOLEK
R5 N002 N007 100k
V4 N007 0 PULSE(0 1 0 1n 1n 0.0005 0.01)
XU3 0 N002 NC_02 MEM_BIOLEK
R6 N002 N008 100k
V5 N008 0 PULSE(0 -1 0 1n 1n 0.0005 0.002)
.model D D
.lib C:\users\yura\My Documents\LTspiceXVII\lib\cmp\standard.dio
.lib memrs.lib
.tran 1
.lib UniversalOpamps2.sub
.backanno
.end
